US05461153
8. Preparation of 7-Chloro-5-ethoxy-1,2,4-triazolo[4,3-c]pyrimidine-3(2H)-thione
A mixture containing 20 g of 93 percent purity (99 mmol) 4-chloro-2-ethoxy-6-hydrazinopyrimidine in a solvent composed of 90 mL of acetonitrile and 26 mL of water was prepared under nitrogen in a 500 mL flask equipped with a condensor and an opening covered by a septum through which the syringe of a syringe pump was inserted. To this was added 11.3 g (148 mmol) of carbon disulfide and, after a 15-min reaction period, 16.7 g of 30 percent aqueous hydrogen peroxide (147 mmol) was added over a 15-min period by means of the syringe with stirring and cooling to hold the temperature at about 25° C. The mixture was allowed to react for another 4 hours and then was cooled to about 0° C. The precipitated product and sulfur by-product were recovered by vacuum filtration and washed with water, a 1:1 mixture of water and acetonitrile, and finally acetonitrile. The wet cake was slurried in 1 L of water at 70° C. and about 600 mL of acetonitrile was added to dissolve the solid. The resulting mixture was gravity filtered and the filtrate was allowed to cool over the weekend. The mixture was further cooled in a refrigerator and the crystals that formed were recovered by vacuum filtration, washed with acetonitrile, and dried to constant weight to obtain 14.1 g (62 percent of theory) of the title compound as an amber solid which decomposed on heating above 187° C.

reactant | 4-chloro-2-ethoxy-6-hydrazinopyrimidine | 99 mmol | ClC1=NC(=NC(=C1)NN)OCC | C6H9ClN4O
reactant | acetonitrile | 90 mL | C(C)#N | C2H3N
reactant | carbon disulfide | 148 mmol, 11.3 g | C(=S)=S | CS2
reactant | hydrogen peroxide | 147 mmol, 16.7 g | OO | H2O2
solvent | water | 26 mL | O | H2O
product | 7-Chloro-5-ethoxy-1,2,4-triazolo[4,3-c]pyrimidine-3(2H)-thione | ClC1=CC=2N(C(=N1)OCC)C(NN2)=S | C7H7ClN4OS
